US05990133
Phenyl N-(4-Chloro-3-(pyrid-3-yl)phenyl)carbamate (D67)
4-Chloro-3-(pyrid-3-yl)aniline (0.08 g, 0.00039 mole) in isopropyl alcohol (8 ml) was cooled to -40° C. and treated under argon with triethylamine (0.06 ml, 0.00043 mole) followed dropwise by phenyl chloroformate (0.051 ml, 0.00041 mole). The reaction mixture was stirred at -40° C. for half an hour and allowed to warm to ambient temperature. The solvent was removed in vacuo and the residue dissolved in dichloromethane, washed with HO, dried (Na2SO4) and evaporated in vacuo to afford the title compound (0.12 g, 95%) as an orange solid.

reactant | 4-Chloro-3-(pyrid-3-yl)aniline | 0.00039 mole, 0.08 g | ClC1=C(C=C(N)C=C1)C=1C=NC=CC1 | C11H9ClN2
reactant | triethylamine | 0.00043 mole, 0.06 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.00041 mole, 0.051 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | isopropyl alcohol | 8 ml | C(C)(C)O | C3H8O
product | Phenyl N-(4-Chloro-3-(pyrid-3-yl)phenyl)carbamate | 0.12 g, 95% | ClC1=C(C=C(C=C1)NC(OC1=CC=CC=C1)=O)C=1C=NC=CC1 | C18H13ClN2O2
